US07618985B2
2-Benzyloxyethyl bromide (1 mol) was added to a suspension of (S)-6-(piperidin-3-yloxy)-2H-isoquinolin-1-one (30 mg, 0.12 mmol) and potassium carbonate (70mg, 4.2 mol) in N, N-dimethylformamide (500 μl) and shaken for 17 hours. The reaction was quenched with hydrochloric acid (2M) and methanol and passed down an SCX cartridge. The products were purified by preparative HPLC under basic conditions. The clean products were isolated by evaporation under reduced pressure to afford (S)-6-[1-(2-benzyloxyethyl)piperidin-3-yloxy]-2H-isoquinolin-1-one: El-MS: m/z=379.4[M+H]+.

reactant | 2-Benzyloxyethyl bromide | 1 mol | C(C1=CC=CC=C1)OCCBr | C9H11BrO
reactant | (S)-6-(piperidin-3-yloxy)-2H-isoquinolin-1-one | 0.12 mmol, 30 mg | N1C[C@H](CCC1)OC=1C=C2C=CNC(C2=CC1)=O | C14H16N2O2
reactant | potassium carbonate | 4.2 mol, 70mg | C([O-])([O-])=O.[K+].[K+]
solvent | N, N-dimethylformamide | 500 μl | CN(C=O)C | C3H7NO
product | (S)-6-[1-(2-benzyloxyethyl)piperidin-3-yloxy]-2H-isoquinolin-1-one | C(C1=CC=CC=C1)OCCN1C[C@H](CCC1)OC=1C=C2C=CNC(C2=CC1)=O | C23H26N2O3
